US06258961B1
[2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile
9.8 g (0.2 mol) of sodium cyanide is dissolved in 70 ml of water and to the solution first 32.8 g (0.2 mol) of 2-(2-thienyl)ethylamine hydrochloride, then in a period of a few minutes, the solution of 28.2 g (0.2 mol) of o-chlorobenzaldehyde in 30 ml of ethanol are added. During the addition the temperature of the mixture increases to 45° C. The reaction mixture is then stirred at 60° C. for 2 hours, then cooled to room temperature and diluted with 50 ml of water. The resulting oily product is extracted with 100 ml of 1,2-dichloroethane. The organic phase is washed to cyanide-free with 2×50 ml of water. The traces of 2-(2-thienyl)ethylamine are removed by treatment with 20 ml of 3% hydrochloric acid solution. The residual fast crystallizing oil is the product. Weight: 52 g (94%) mp.: 40-41° C. The product was identified as written in Example 1. Quality of the product is identical with that of the product prepared according to Example 1.

reactant | sodium cyanide | 0.2 mol, 9.8 g | [C-]#N.[Na+]
reactant | 2-(2-thienyl)ethylamine hydrochloride | 0.2 mol, 32.8 g | Cl.S1C(=CC=C1)CCN
reactant | o-chlorobenzaldehyde | 0.2 mol, 28.2 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | water | 70 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile | S1C(=CC=C1)CCNC(C#N)C1=C(C=CC=C1)Cl | C14H13ClN2S
